US06864025B2
N-Tridecylcarbazole was prepared from carbazole (62.43 g, 0.37 mol), 1-bromotridecane (100 g, 0.38 mol, commercially available from Aldrich, Milwaukee, Wis.), benzyltriethyl ammonium chloride (4.24 g. 0.018 mol), toluene (400 ml), and 50% aqueous NaOH (200 g) according to the procedure described for N-heptylcarbazole. The product was obtained as 120 g of brown liquid (96% yield).

reactant | carbazole | 0.37 mol, 62.43 g | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
reactant | 1-bromotridecane | BrCCCCCCCCCCCCC | C13H27Br
reactant | NaOH | 200 g | [OH-].[Na+]
reactant | N-heptylcarbazole | C(CCCCCC)N1C2=CC=CC=C2C=2C=CC=CC12 | C19H23N
catalyst | benzyltriethyl ammonium chloride | 0.018 mol, 4.24 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | N-Tridecylcarbazole | C(CCCCCCCCCCCC)N1C2=CC=CC=C2C=2C=CC=CC12 | C25H35N
